US07179819B2
A mixture of pentafluorophenyl 3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetate (513 mg, 1.07 mmol), methyl (S)-3-chloro-4-(2-amino-1-propoxy)benzoate (260 mg, 1.07 mmol) and Et3 N (220 μl, 1.58 mmol) in DMF (10 mL) was stirred at room temp overnight. The mixture was diluted with EtOAc and the solution was washed with sat. NaHCO3, dried over Na2SO4, and evaporated. The residue was recrystallized from MeOH—CHCl3-EtOAc-n-hexane to give 400 mg (69%) methyl (S)-3-chloro-4-[2-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetylamino]-1-propoxy]benzoate as pale brown crystalline powder. 1H-NMR (DMSO-d6) δ 1.21 (d, 3 H, J=6.4 Hz), 2.24 (s, 3 H), 3.37 (s, 2 H), 3.82(s, 3 H), 3.83 (s, 3 H), 4.04–4.12 (m, 3 H), 6.75–6.77 (m, 1 H), 6.91–6.95 (m, 2 H), 7.11–7.17 (m, 2 H), 7.29–7.31 (m, 1 H), 7.78–7.99 (m, 4 H), 8.12–8.13 (m, 1H), 8.46 (s, 1 H), 8.55 (s, 1 H).

reactant | pentafluorophenyl 3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetate | 1.07 mmol, 513 mg | COC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)C)CC(=O)OC1=C(C(=C(C(=C1F)F)F)F)F | C23H17F5N2O4
reactant | methyl (S)-3-chloro-4-(2-amino-1-propoxy)benzoate | 1.07 mmol, 260 mg | ClC=1C=C(C(=O)OC)C=CC1OC[C@H](C)N | C11H14ClNO3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl (S)-3-chloro-4-[2-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetylamino]-1-propoxy]benzoate | 400 mg, 69% | ClC=1C=C(C(=O)OC)C=CC1OC[C@H](C)NC(CC1=CC(=C(C=C1)NC(=O)NC1=C(C=CC=C1)C)OC)=O | C28H30ClN3O6
